US07271280B2
Under a nitrogen atmosphere, methyl N-(t-butyloxycarbonyl)-3-amino-3-(4-toluenesulfonyloxyphenyl)propionate (0.45 g, 1.0 mmol), cesium carbonate (0.65 g, 2.0 mmol), tricyclohexylphosphine (0.059 g, 0.2 mmol), bis(1,5-cyclooctadiene)nickel (0.028 g, 0.1 mmol) and 2,6-dimethoxyphenylboronic acid (0.36 g, 2.0 mmol) were mixed in dioxane (1 ml). The reaction mixture was heated to 50° C. and then stirred at the same temperature for 2 hrs. After the reaction was completed, the mixture was left to cool to room temperature and insoluble substances were filtered off. The filtrate was subjected to column chromatography purification to obtain methyl N-(t-butyloxycarbonyl)-3-amino-3-[4-(2,6-dimethoxyphenyl)phenyl]propionate (0.34 g, yield 83%) as colorless oil.

reactant | methyl N-(t-butyloxycarbonyl)-3-amino-3-(4-toluenesulfonyloxyphenyl)propionate | 1.0 mmol, 0.45 g | C(C)(C)(C)OC(=O)NC(CC(=O)OC)C1=CC=C(C=C1)OS(=O)(=O)C=1C(=CC=CC1)C | C22H27NO7S
reactant | cesium carbonate | 2.0 mmol, 0.65 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tricyclohexylphosphine | 0.2 mmol, 0.059 g | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | 2,6-dimethoxyphenylboronic acid | 2.0 mmol, 0.36 g | COC1=C(C(=CC=C1)OC)B(O)O | C8H11BO4
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
catalyst | bis(1,5-cyclooctadiene)nickel | 0.1 mmol, 0.028 g | C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Ni]
product | methyl N-(t-butyloxycarbonyl)-3-amino-3-[4-(2,6-dimethoxyphenyl)phenyl]propionate | 0.34 g, yield 83% | C(C)(C)(C)OC(=O)NC(CC(=O)OC)C1=CC=C(C=C1)C1=C(C=CC=C1OC)OC | C23H29NO6
